US06455587B1
Preparation of Nα,Nδ-di-(4-Bromobenzenesulfonyl)-Nδ-(4-fluorobenzyl)-L-ornithine (Compound No. 59)
To a stirred solution of Nα,Nδ-di-(4-bromobenzenesulfonyl)-L-ornithine (145 mg, 0.25 mmol) in DMF (2.5 mL) was added NaH. The reaction was stirred at room temperature until the hydrogen evolution stoped. 4-fluorobenzyl bromide (57 mg, 0.3 mmol) in solution in DMF (0.5 mL) was added and the mixture was allowed to stirr at room temperature for 1 h. HCl (1N) was added until acidic pH (˜3) and the reaction was extracted with EtOAc. The organic layer was dried (MgSO4) and concentrated. The crude material was purified by flash chromatography eluting with hexanes:EtOAc:AcOH, 50:50:00; 25:75:00 and then 25:70:0.5 to afford 142 mg (84%) of the title compound.

reactant | Nα,Nδ-di-(4-bromobenzenesulfonyl)-L-ornithine | 0.25 mmol, 145 mg | BrC1=CC=C(C=C1)S(=O)(=O)N[C@@H](CCCNS(=O)(=O)C1=CC=C(C=C1)Br)C(=O)O | C17H18Br2N2O6S2
reactant | NaH | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 4-fluorobenzyl bromide | 0.3 mmol, 57 mg | FC1=CC=C(CBr)C=C1 | C7H6BrF
reactant | HCl | 1N | Cl | ClH
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | Nα,Nδ-di-(4-Bromobenzenesulfonyl)-Nδ-(4-fluorobenzyl)-L-ornithine | 142 mg, 84% | BrC1=CC=C(C=C1)S(=O)(=O)N[C@@H](CCCN(CC1=CC=C(C=C1)F)S(=O)(=O)C1=CC=C(C=C1)Br)C(=O)O | C24H23Br2FN2O6S2
